US05256824
To a solution of (-)-rel-(1R,2R,3S)-2,3-epoxy-5,5-diphenylcyclopentan-1-ol (297 mg) in methylene chloride (3 ml) and isopropyl alcohol (1.2 ml) was added titanium(IV) isopropoxide (0.46 ml) with ice bath cooling. After being stirred for 30 minutes, t-butylamine (0.25 ml) was added thereto, and the mixture was stirred at room temperature overnight. The solution was evaporated in vacuo and the residue was dissolved in diethyl ether (3 ml). To the solution was added 3N hydrochloric acid (1.66 ml) in an ice bath, and the mixture was stirred for 3 hours. The resulting precipitates were collected by filtration, washed with diethyl ether (3 ml), and dried to give (-)-rel-(1R,2S,3R)-3-t-butylamino-5,5-diphenylcyclopentane-1,2-diol hydrochloride (0.36 g).

reactant | (-)-rel-(1R,2R,3S)-2,3-epoxy-5,5-diphenylcyclopentan-1-ol | 297 mg | O1[C@@H]2[C@@H](C(C[C@@H]21)(C2=CC=CC=C2)C2=CC=CC=C2)O | C17H16O2
reactant | t-butylamine | 0.25 ml | C(C)(C)(C)N | C4H11N
reactant | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | isopropyl alcohol | 1.2 ml | C(C)(C)O | C3H8O
catalyst | titanium(IV) isopropoxide | 0.46 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (-)-rel-(1R,2S,3R)-3-t-butylamino-5,5-diphenylcyclopentane-1,2-diol hydrochloride | 0.36 g | Cl.C(C)(C)(C)N[C@H]1[C@@H]([C@@H](C(C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)O | InChI=1S/C21H27NO2.ClH/c1-20(2,3)22-17-14-21(19(24)18(17)23,15-10-6-4-7-11-15)16-12-8-5-9-13-16;/h4-13,17-19,22-24H,14H2,1-3H3;1H/t17-,18+,19+;/m1./s1
